2127-11-08 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2127-11-7**] 07:37 PM
 BLOOD CULTURED - At [**2127-11-7**] 07:42 PM
 EKG - At [**2127-11-7**] 07:43 PM
 SPUTUM CULTURE - At [**2127-11-8**] 12:39 AM
   - req'd less vent support - now on cpap 5/5
   - will address cervical fx with spine before moving to extubate
   - pt did not come with films - called [**Hospital3 519**] - will call back
   in AM with plan to get us films
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-8**] 02:32 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2127-11-7**] 10:30 PM
   Heparin Sodium (Prophylaxis) - [**2127-11-8**] 12:00 AM
   Pantoprazole (Protonix) - [**2127-11-8**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-8**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 72 (71 - 85) bpm
   BP: 119/64(78) {119/64(78) - 181/109(123)} mmHg
   RR: 15 (13 - 15) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                     52 mL
                                                                    680 mL
   PO:
             TF:
   IVF:
                                                                     52 mL
                                                                    680 mL
   Blood products:
   Total out:
                                                                    155 mL
                                                                    145 mL
   Urine:
                                                                    155 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 427 (427 - 649) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   SpO2: 98%
   ABG: 7.42/40/177/25/1
   Ve: 7.1 L/min
   PaO2 / FiO2: 443
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   11.2 g/dL
   119 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   39 mg/dL
   114 mEq/L
   147 mEq/L
   31.8 %
   8.2 K/uL
        [image002.jpg]
                            [**2127-11-7**]  07:30 PM
                            [**2127-11-7**]  07:57 PM
                            [**2127-11-8**]  03:15 AM
   WBC
   9.8
   8.2
   Hct
   33.0
   31.8
   Plt
   201
   195
   Cr
   0.9
   0.9
   TropT
   <0.01
   0.02
   TCO2
   27
   Glucose
   134
   119
   Other labs: PT / PTT / INR:13.4/30.2/1.1, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   LDH:249 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall.
   .
   # Respiratory failure:  ? Aspiration pneumonia.  Left lung whiteout due
   to possible mucous plug which has improved now after intubation.
   - will continue zosyn, could consider switching to levo/flagyl given
   this PNA is most likely secondary to aspiration
   - Sputum Cx, BCx
   - Aspiration and VAP precuations
   - consider extubating if no studies are required per Neuro/ortho recs
   .
   # C5 fracture:  ? Also had L5 fracture.  Was evaluated by Neurosurgery
   at OSH.
   - Hard collar
   - will consult ortho/neuro surgery in AM
   - may need further studies, will hold off on extubation
   .
   # Atrial fibrillation:  No history of afib per wife.  [**Name (NI) **] medical
   stress in contributing.
   - currently rate control
   - will consider low dose BB if [**Last Name (LF) 1978**], [**First Name3 (LF) 124**] hold for now given SVR at OSH
   - CHADS2 score is 2, will hold off on anticoagulation given acute
   fracture
   - UA/UCx
   - will check TSH
   .
   # Mild hypernatremia:  Most likely mild dehydration.  With elevated
   BUN/Cr ratio consistent with it.
   - gentle IV hydration
   .
   # Boderline CE at OSH:
   - no EKG changes
   - will check CE here
   - will consider TTE here
   .
   # Hypertension:
   - will consider low dose BB
   .
   # H/o esophageal strictures:  At least 3 dilatations this year per
   outside hospital verbal signout.  Unable to place NG tube or OG tube
   per signout.
   - Could attempt another placement here
   - Gernal surgery consult for PEG placement
   - NPO for now given ? aspiration
   .
   # ?History of multiple fall:
   - PT/OT eval once acute issues are taken care of
   .
   # h/o hiatal hernia:
   - may need GI consult for NGT/OGT placment vs PEG
   .
   # FEN: Unable to place NGT/OGT as above.  NPO for now; replete lytes
   prn.
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PIV.
   .
   # Contact: Wife HCP Nne [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code per outside hospital report after they had a
   discussion with the family
   .
   # Dispo: ICU for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-7**] 07:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-09 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2127-11-8**] 02:45 PM
 MAGNETIC RESONANCE IMAGING - At [**2127-11-9**] 04:28 AM
   -bronched: found to have significant thickened sputum in L main
   bronchus and segmental bronchi
   -NG placed
   -CT shows c5-c6 fracture, Fx L transverse proc L2-L3. Ortho recs- MRI
   and switch to Aspen collar
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-8**] 07:44 PM
   Ciprofloxacin - [**2127-11-8**] 10:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-9**] 02:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-9**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-9**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 81 (70 - 90) bpm
   BP: 149/84(92) {131/70(85) - 162/94(110)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  3,460 mL
                                                                    904 mL
   PO:
             TF:
   IVF:
                                                                  3,460 mL
                                                                    904 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    310 mL
   Urine:
                                                                    970 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,490 mL
                                                                    594 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (500 - 556) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 10.1 L/min
   Physical Examination
   NAD: intubated on minimal sedation, opens eyes, responding to questions
   on/off
   HEENT: MMM anicteric, PERRL, Aspen collar on
   CV:RRR S1S2 SEM c/w bioprosthetic valve
   PULM: clear b/l with scant crackles at bases b/l
   ABD: soft, nondistended +bs
   EXT: warm, well perfused
   NEURO: alert, wakes to voice, only responds to some questions not to
   all. Able to wiggle toes, squeeze down w/R hand (appreciated during
   rounds, was not responsive during pre-rounding).
   Labs / Radiology
   203 K/uL
   10.9 g/dL
   107 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   32 mg/dL
   110 mEq/L
   141 mEq/L
   31.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2127-11-7**]  07:30 PM
                            [**2127-11-7**]  07:57 PM
                            [**2127-11-8**]  03:15 AM
                            [**2127-11-9**]  02:00 AM
   WBC
   9.8
   8.2
   8.2
   Hct
   33.0
   31.8
   31.4
   Plt
   [**Telephone/Fax (3) 3389**]
   Cr
   0.9
   0.9
   0.9
   TropT
   <0.01
   0.02
   TCO2
   27
   Glucose
   134
   119
   107
   Other labs: PT / PTT / INR:13.4/30.2/1.1, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall.
   .
   # Respiratory failure:  On CXR RLL PNA, likely secondary to
   aspiration.  Left lung whiteout due to possible mucous plug which has
   improved now after intubation. The patient is on minimal vent settings
   and may be able to extubate however, goals of care are an issue right
   now. The question is whether he would benefit from a trach, since he is
   a high risk of aspiration and is a difficult intubation. His mental
   status is somewhat improved this morning but this may be transient and
   needs to be followed.
   - continue broad coverage abx for aspiration PNA
   -try wean on vent, and discuss w/family if trach vs extubation is
   consistant w/goals of care
   - Sputum Cx, BCx
   - also consider if pt going to OR may not want to extubate today
   .
   # C5 fracture:  MRI prelim read notes known C5-C6 fractures also
   question of anterior long ligament tear.  No cord compression. Final
   reads on both MRI and CT are pending. Ortho is following, likely to
   offer surgery for cervical fracture.
   - Aspen collar
   - f/u ortho spine
   - f/u final reads on imaging
   .
   # Atrial fibrillation:  No history of afib per wife.  Currently in
   sinus rhythm.
   - in sinus currently
   .
   # Mild hypernatremia:  Most likely mild dehydration.  With elevated
   BUN/Cr ratio consistent with it.
   - resolved w/IV hydration
   .
   # Boderline CE at OSH: no EKG changes here. TTE ? Monday.
   - no EKG changes
   .
   # Hypertension: may be in setting of pain, and worse w/decreased
   sedation. Can use short acting meds if needed to control HTN for now.
   .
   # H/o esophageal strictures:  At least 3 dilatations this year per
   outside hospital verbal signout.  Unable to place NG tube or OG tube
   per signout.
   - get [**Hospital 3393**] records on previous procedures and treatments
   - NPO for now given aspiration, possible OR
   -f/u GI recs
   .
   # ?History of multiple fall:
   - PT/OT eval once acute issues are taken care of
   - nutrition recs once established airway is decided upon
   .
   # h/o hiatal hernia:
   - GI consult
   -reimage NG to establish whether its beyond the diaphragm
   .
   # FEN: verify NG otherwise [**Male First Name (un) **]
t use.  NPO for now; replete lytes prn.
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PIV.
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code per outside hospital report after they had a
   discussion with the family
   .
   # Dispo: ICU for now- may consider transfer to trauma surgery
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-9**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-09 09:51:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2127-11-8**] 02:45 PM
 MAGNETIC RESONANCE IMAGING - At [**2127-11-9**] 04:28 AM
   CTs
   Spine surgery consult.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-8**] 07:44 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-9**] 02:01 AM
   Ciprofloxacin - [**2127-11-9**] 08:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-9**] 07:35 AM
   Other medications:
   sqh, zosyn, PPI, vanco, cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-9**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 80 (70 - 90) bpm
   BP: 148/82(97) {132/70(85) - 162/94(110)} mmHg
   RR: 21 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  3,460 mL
                                                                  1,495 mL
   PO:
             TF:
   IVF:
                                                                  3,460 mL
                                                                  1,495 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    365 mL
   Urine:
                                                                    970 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,490 mL
                                                                  1,130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (500 - 556) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, pupils are small
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse breath sounts
   Abdominal: Soft, Non-tender
   Extremities: Right: no edema, Left: no edema
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, Markedly improved alertness, now
   following commands
   Labs / Radiology
   10.9 g/dL
   203 K/uL
   107 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   32 mg/dL
   110 mEq/L
   141 mEq/L
   31.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2127-11-7**]  07:30 PM
                            [**2127-11-7**]  07:57 PM
                            [**2127-11-8**]  03:15 AM
                            [**2127-11-9**]  02:00 AM
   WBC
   9.8
   8.2
   8.2
   Hct
   33.0
   31.8
   31.4
   Plt
   [**Telephone/Fax (3) 3389**]
   Cr
   0.9
   0.9
   0.9
   TropT
   <0.01
   0.02
   TCO2
   27
   Glucose
   134
   119
   107
   Other labs: PT / PTT / INR:13.4/30.2/1.1, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   Imaging: MRI spine - C5/6 fracture, possible ligamentous injury, no
   cord involvement
   MRI brain - no acute infarct or hemorrhage; possible
   CT c/a - report pending
   Microbiology: Bronch - GPC on gram stain
   Assessment and Plan
   [**Age over 90 **] y/o man with fall
 spinal fracture as well as pneumonia, mucus
   plugging
 respiratory failure.
   Problems
          Respiratory failure
          Left hemileukothorax (by report)
 now resolved
          Cervical spine fracture
          Lumbar spine fracture
          Atrial fibrillation
          Esophageal strictures and lack of enteral access
          Hypernatremia - resolved
   Both his mental status and his respiratory status have improved.  The
   main issue now is balancing his prior stated wishes with possible
   spinal surgery, feeding tube, and even possibly tracheostomy.  Given
   his cervical spine fracture, will not pursue extubation today.  Will
   discuss further with spine surgery potential elective tracheostomy
   given possible difficult reintubation.
   Continue antibiotics for nosocomial pneumonia.
   Will discuss NGT issues (hiatal hernia) with GI.
   Follow up formal imaging reports.
   Recheck CXR and UA today.
   Other issues per ICU team note.
   He is critically ill: 40 minutes.
   ICU Care
   Nutrition: NPO until NG issue worked out.
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-9**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed with wife and other family members
   yesterday.  [**Name2 (NI) **] discuss further with them today in person if snowstorm
   permits.
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 min
   Patient is critically ill

2127-11-10 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -add on for spine surgery today
   -mental status wax and wanes, O/n open eyes to voice but unable to
   follow commands.
   - MR head final read: Loss of flow void in the right distal vertebral
   artery, which may relate
   to slow flow or partial thrombosis. Further evaluation with MR
   angiogram of
   the head, punctate area of possible restricted diffusion, related to
   acute
   infarct in the left periventricular region, which is too small to be
   accurately characterized, this, can otherwise represent an artifact. No
   surrounding mass effect or edema is noted.
   - Was on CPAP 5/0, returned to [**8-29**] [**12-21**] tachypnea
   -UO decreased, continued D51/2 maintance and gave 250cc bolus x1
   without change.  However greatly positive with I/o last 24, unlikely to
   be intravasularly depleted
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-9**] 08:32 PM
   Ciprofloxacin - [**2127-11-9**] 10:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-10**] 12:03 AM
   Pantoprazole (Protonix) - [**2127-11-10**] 02:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-10**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 72 (72 - 93) bpm
   BP: 99/61(66) {90/58(66) - 148/86(98)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  3,427 mL
                                                                    815 mL
   PO:
             TF:
   IVF:
                                                                  3,427 mL
                                                                    815 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    154 mL
   Urine:
                                                                    750 mL
                                                                    154 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,677 mL
                                                                    661 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 672 (503 - 672) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 12.2 L/min
   Physical Examination
   NAD: intubated on minimal sedation, opens eyes, responding to questions
   on/off
   HEENT: MMM anicteric, PERRL, Aspen collar on
   CV:RRR S1S2 SEM c/w bioprosthetic valve
   PULM: clear b/l with scant crackles at bases b/l
   ABD: soft, nondistended +bs
   EXT: warm, well perfused
   NEURO: alert, wakes to voice, only responds to some questions not to
   all. Able to wiggle toes, squeeze down w/R hand (appreciated during
   rounds, was not responsive during pre-rounding).
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   11.1 g/dL
   132 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   35 mg/dL
   107 mEq/L
   136 mEq/L
   30.2 %
   9.1 K/uL
        [image002.jpg]
                            [**2127-11-7**]  07:30 PM
                            [**2127-11-7**]  07:57 PM
                            [**2127-11-8**]  03:15 AM
                            [**2127-11-9**]  02:00 AM
                            [**2127-11-10**]  02:42 AM
   WBC
   9.8
   8.2
   8.2
   9.1
   Hct
   33.0
   31.8
   31.4
   30.2
   Plt
   [**Telephone/Fax (3) 3409**]09
   Cr
   0.9
   0.9
   0.9
   1.0
   TropT
   <0.01
   0.02
   TCO2
   27
   Glucose
   134
   119
   107
   132
   Other labs: PT / PTT / INR:14.6/34.3/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall.
   .
   # Respiratory failure:  On CXR RLL PNA, likely secondary to
   aspiration.  Left lung whiteout due to possible mucous plug which has
   improved now after intubation. The patient is on minimal vent settings
   and may be able to extubate however, goals of care are an issue right
   now. The question is whether he would benefit from a trach, since he is
   a high risk of aspiration and is a difficult intubation. His mental
   status is somewhat improved this morning but this may be transient and
   needs to be followed.
   - continue broad coverage abx for aspiration PNA
   -try wean on vent, and discuss w/family if trach vs extubation is
   consistant w/goals of care
   - Sputum Cx, BCx
   - also consider if pt going to OR may not want to extubate today
   .
   # C5 fracture:  MRI prelim read notes known C5-C6 fractures also
   question of anterior long ligament tear.  No cord compression. Final
   reads on both MRI and CT are pending. Ortho is following, likely to
   offer surgery for cervical fracture.
   - Aspen collar
   - f/u ortho spine
   - f/u final reads on imaging
   .
   # Atrial fibrillation:  No history of afib per wife.  Currently in
   sinus rhythm.
   - in sinus currently
   .
   # Mild hypernatremia:  Most likely mild dehydration.  With elevated
   BUN/Cr ratio consistent with it.
   - resolved w/IV hydration
   .
   # Boderline CE at OSH: no EKG changes here. TTE ? Monday.
   - no EKG changes
   .
   # Hypertension: may be in setting of pain, and worse w/decreased
   sedation. Can use short acting meds if needed to control HTN for now.
   .
   # H/o esophageal strictures:  At least 3 dilatations this year per
   outside hospital verbal signout.  Unable to place NG tube or OG tube
   per signout.
   - get [**Hospital 3393**] records on previous procedures and treatments
   - NPO for now given aspiration, possible OR
   -f/u GI recs
   .
   # ?History of multiple fall:
   - PT/OT eval once acute issues are taken care of
   - nutrition recs once established airway is decided upon
   .
   # h/o hiatal hernia:
   - GI consult
   -reimage NG to establish whether its beyond the diaphragm
   .
   # FEN: verify NG otherwise [**Male First Name (un) **]
t use.  NPO for now; replete lytes prn.
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PIV.
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code per outside hospital report after they had a
   discussion with the family
   .
   # Dispo: ICU for now- may consider transfer to trauma surgery
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-10**] 04:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-11 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - called [**Hospital3 3417**] for records, has beningn esophageal strictures
   - returned from OR with cervical spine fusion - needs to wear hard
   collar
   - decreased UOP at night, admin'd fluid bolus 1L NS with good effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-10**] 10:00 AM
   Vancomycin - [**2127-11-10**] 08:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-11**] 02:02 AM
   Infusions:
   Other ICU medications:
   Vecuronium - [**2127-11-10**] 12:45 PM
   Fentanyl - [**2127-11-10**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2127-11-11**] 01:11 AM
   Pantoprazole (Protonix) - [**2127-11-11**] 02:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-11**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 66 (66 - 84) bpm
   BP: 124/69(82) {99/60(69) - 162/89(103)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  5,620 mL
                                                                  1,535 mL
   PO:
             TF:
   IVF:
                                                                  5,620 mL
                                                                  1,535 mL
   Blood products:
   Total out:
                                                                    529 mL
                                                                     60 mL
   Urine:
                                                                    474 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,091 mL
                                                                  1,475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 759 (559 - 759) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 10 L/min
   Physical Examination
   NAD: intubated on minimal sedation, opens eyes, not responding to
   questions
   HEENT: MMM anicteric, PERRL, Aspen collar on
   CV:RRR S1S2 SEM c/w bioprosthetic valve
   PULM: clear b/l with scant crackles at bases b/l
   ABD: soft, nondistended +bs
   EXT: warm, well perfused
   NEURO: alert, wakes to voice, only responds to some questions not to
   all. Able to wiggle toes, squeeze down w/R hand (appreciated during
   rounds, was not responsive during pre-rounding).
   Labs / Radiology
   190 K/uL
   10.4 g/dL
   122 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   32 mg/dL
   110 mEq/L
   138 mEq/L
   29.1 %
   8.3 K/uL
                            [**2127-11-7**]  07:30 PM
                            [**2127-11-7**]  07:57 PM
                            [**2127-11-8**]  03:15 AM
                            [**2127-11-9**]  02:00 AM
                            [**2127-11-10**]  02:42 AM
                            [**2127-11-11**]  03:40 AM
   WBC
   9.8
   8.2
   8.2
   9.1
   8.3
   Hct
   33.0
   31.8
   31.4
   30.2
   29.1
   Plt
   [**Telephone/Fax (3) 3409**]09
   190
   Cr
   0.9
   0.9
   0.9
   1.0
   0.9
   TropT
   <0.01
   0.02
   TCO2
   27
   Glucose
   134
   119
   107
   132
   122
   Other labs: PT / PTT / INR:14.6/34.3/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall.
   .
   # Respiratory failure:  On CXR RLL PNA, likely secondary to aspiration
   vs. nosocomial.  Left lung whiteout at OSH due to mucous plug which has
   improved after intubation. The patient is on minimal vent settings and
   may be able to extubate however, going to OR for Cspine fracture this
   AM. He was a difficult intubation and may benefit with trach placement
   if post-extubation period is difficult. His mental status waxes and
   wanes which may also be a barrier to extubation, although he only
   tolerates low vent settings (5/0) for short periods of time due to
   tachypnea.  B/c of neck fusion and difficulty reintubating, pt not
   current candidate for extubation.  Trach may be a good alternative to
   transitioning respiratory support.
   - continue broad coverage abx for aspiration PNA
   - continue to wean as tolerated post-op
   - sedation is off at this time
   - thoracic service consulted for trach/peg placement
   - discuss goals of care w/family
   .
   # C5 fracture:  MRI prelim read notes known C5-C6 fractures also
   question of anterior long ligament tear.  To OR today for C5-C6
   fracture repair. Ortho spine recs are to cont hard collar ahen upright,
   limit wearing in supine to prevent skin breakdown.
   - Aspen collar for now
   - f/u any new recs from spine
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. GI service
   was consulted over the weekend and felt PEG placement is not
   appropriate in the state of active illness. GI eval
d pt and felt
   complexity of hernia limited placing PEG via scope.  Thoracic onboard
   to eval for trach/peg .
   - strictures related to benign cause per records from [**Hospital3 **]
   - thoracic to see today
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled.
   - no active issues
   .
   # ?History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   - nutrition recs once established airway/nutirition is decided upon
   # Mild hypernatremia:  Most likely mild dehydration.  With elevated
   BUN/Cr ratio consistent with it.
   - resolved w/IV hydration
   .
   # Boderline CE at OSH: no EKG changes here. TTE ? Monday.
   - no EKG changes
   .
   # Hypertension: may be in setting of pain, and worse w/decreased
   sedation. Consider restarting HTN medications now that sedation is off.
   -monitor SBP
   .
   # FEN:  NPO for now; replete lytes prn.
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now, move towards trach/peg
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-9**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-12 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2127-11-11**] 09:35 AM
   -per thoracic [**Doctor First Name 91**]- will go to OR for PEG placement on Fri; per wife,
   [**Name (NI) 3441**] want trach
   -PICC line placed
   -1 episode of bloody emesis, removed NG tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-11**] 06:30 PM
   Ciprofloxacin - [**2127-11-11**] 08:43 PM
   Vancomycin - [**2127-11-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-12**] 12:32 AM
   Fentanyl - [**2127-11-12**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-12**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 70 (63 - 82) bpm
   BP: 119/60(75) {103/58(71) - 163/99(109)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,744 mL
                                                                    695 mL
   PO:
             TF:
   IVF:
                                                                  4,744 mL
                                                                    695 mL
   Blood products:
   Total out:
                                                                    561 mL
                                                                    360 mL
   Urine:
                                                                    561 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,183 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 692 (588 - 749) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 7.4 L/min
   Physical Examination
   NAD: intubated on minimal sedation, opens eyes, not responding to
   questions
   HEENT: MMM anicteric, PERRL, Aspen collar on
   CV:RRR S1S2 SEM c/w bioprosthetic valve
   PULM: clear b/l with scant crackles at bases b/l
   ABD: soft, nondistended +bs
   EXT: warm, well perfused
   NEURO: alert, wakes to voice, only responds to some questions not to
   all. Able to wiggle toes, squeeze down w/R hand (appreciated during
   rounds, was not responsive during pre-rounding).
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   9.8 g/dL
   121 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   136 mEq/L
   28.1 %
   6.6 K/uL
        [image002.jpg]
                            [**2127-11-7**]  07:30 PM
                            [**2127-11-7**]  07:57 PM
                            [**2127-11-8**]  03:15 AM
                            [**2127-11-9**]  02:00 AM
                            [**2127-11-10**]  02:42 AM
                            [**2127-11-11**]  03:40 AM
                            [**2127-11-11**]  10:00 AM
                            [**2127-11-12**]  12:39 AM
   WBC
   9.8
   8.2
   8.2
   9.1
   8.3
   6.6
   Hct
   33.0
   31.8
   31.4
   30.2
   29.1
   28.1
   Plt
   [**Telephone/Fax (2) 3442**]
   Cr
   0.9
   0.9
   0.9
   1.0
   0.9
   0.8
   TropT
   <0.01
   0.02
   TCO2
   27
   Glucose
   134
   119
   107
   132
   122
   125
   121
   Other labs: PT / PTT / INR:15.0/34.4/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall.
   .
   # Respiratory failure:  On CXR RLL PNA, likely secondary to aspiration
   vs. nosocomial.  Left lung whiteout at OSH due to mucous plug which has
   improved after intubation. The patient is on minimal vent settings and
   may be able to extubate however, going to OR for Cspine fracture this
   AM. He was a difficult intubation and may benefit with trach placement
   if post-extubation period is difficult. His mental status waxes and
   wanes which may also be a barrier to extubation, although he only
   tolerates low vent settings (5/0) for short periods of time due to
   tachypnea.  B/c of neck fusion and difficulty reintubating, pt not
   current candidate for extubation.  Trach may be a good alternative to
   transitioning respiratory support.
   - continue broad coverage abx for aspiration PNA
   - continue to wean as tolerated post-op
   - sedation is off at this time
   - thoracic service consulted for trach/peg placement
   - discuss goals of care w/family
   .
   # C5 fracture:  MRI prelim read notes known C5-C6 fractures also
   question of anterior long ligament tear.  To OR today for C5-C6
   fracture repair. Ortho spine recs are to cont hard collar ahen upright,
   limit wearing in supine to prevent skin breakdown.
   - Aspen collar for now
   - f/u any new recs from spine
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. GI service
   was consulted over the weekend and felt PEG placement is not
   appropriate in the state of active illness. GI eval
d pt and felt
   complexity of hernia limited placing PEG via scope.  Thoracic onboard
   to eval for trach/peg .
   - strictures related to benign cause per records from [**Hospital3 **]
   - thoracic to see today
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled.
   - no active issues
   .
   # ?History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   - nutrition recs once established airway/nutirition is decided upon
   # Mild hypernatremia:  Most likely mild dehydration.  With elevated
   BUN/Cr ratio consistent with it.
   - resolved w/IV hydration
   .
   # Boderline CE at OSH: no EKG changes here. TTE ? Monday.
   - no EKG changes
   .
   # Hypertension: may be in setting of pain, and worse w/decreased
   sedation. Consider restarting HTN medications now that sedation is off.
   -monitor SBP
   .
   # FEN:  NPO for now; replete lytes prn.
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now, move towards trach/peg
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-9**] 06:19 PM
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-13 05:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Passed SBT. Maintained on [**3-24**] since decided not to extubate right
   before planned procedure Friday
   Ortho recs: ? f/u in 1 week
   Thoracics: Planned EGD, open GJT, hernia reduction friday
   Lasix 20 IV x 2, put out 200cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-12**] 10:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-12**] 05:27 PM
   Vancomycin - [**2127-11-12**] 09:40 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-12**] 08:00 AM
   Fentanyl - [**2127-11-12**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-13**] 05:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 83 (69 - 83) bpm
   BP: 156/77(96) {126/61(77) - 177/81(103)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,814 mL
                                                                    269 mL
   PO:
             TF:
   IVF:
                                                                  2,565 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  8,830 mL
                                                                      0 mL
   Urine:
                                                                  3,830 mL
   NG:
   Stool:
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -6,016 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 515 (280 - 658) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   RSBI Deferred: PEEP > 10
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 9.5 L/min
   Physical Examination
   NAD: intubated and alert, opens eyes and responds to commands
   HEENT: MMM anicteric, PERRL, Aspen collar on
   CV:RRR S1S2 SEM c/w bioprosthetic valve
   PULM: clear b/l with scant crackles at bases b/l
   ABD: soft, nondistended +bs, nondistended
   EXT: warm, well perfused
   NEURO: alert, wakes to voice, only responds to some questions not to
   all. Able to wiggle toes, squeeze down with both hands
   Labs / Radiology
   249 K/uL
   9.9 g/dL
   114 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   26 mg/dL
   105 mEq/L
   135 mEq/L
   26.8 %
   6.6 K/uL
        [image002.jpg]
                            [**2127-11-7**]  07:30 PM
                            [**2127-11-7**]  07:57 PM
                            [**2127-11-8**]  03:15 AM
                            [**2127-11-9**]  02:00 AM
                            [**2127-11-10**]  02:42 AM
                            [**2127-11-11**]  03:40 AM
                            [**2127-11-11**]  10:00 AM
                            [**2127-11-12**]  12:39 AM
                            [**2127-11-12**]  02:11 PM
                            [**2127-11-13**]  04:33 AM
   WBC
   9.8
   8.2
   8.2
   9.1
   8.3
   6.6
   6.6
   Hct
   33.0
   31.8
   31.4
   30.2
   29.1
   28.1
   26.8
   Plt
   [**Telephone/Fax (3) 3442**]
   249
   Cr
   0.9
   0.9
   0.9
   1.0
   0.9
   0.8
   0.9
   TropT
   <0.01
   0.02
   TCO2
   27
   Glucose
   134
   119
   107
   132
   122
   125
   121
   114
   Other labs: PT / PTT / INR:15.0/34.4/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall.
   .
   # Respiratory failure:  Treated for aspiration PNA with broad coverage
   antibiotics.  Left lung whiteout at OSH due to mucous plug which has
   improved after intubation.  He is doing very well on minimal vent
   settings this morning with minimal secretions. He will likely be ready
   to extubate over the next 24-48hrs, however it is unclear whether or
   not we will move towards trach after this. Today will work on
   continuing to wean off the vent and if ready for extubation, will
   monitor and assess whether he will need further support with trach (in
   which case ideally this could be done in the OR on Friday along w/PEG
   placement).  Also, fluid overload may play a role in terms of
   extubation- will give lasix 20 IV today and monitor.
   - continue cipro, zosyn. Today day 5 of 8 day course.
   - continue to wean as tolerated
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove. Will leave on for now in case we extubate today.
   - Aspen collar for now
   - f/u any new recs from spine
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. Will have PEG
   placement with thoracic service Friday. Pre-op things to do: AM labs,
   active T&C, ? pre-op EKG. NG was removed yesterday due to small amount
   of emesis yesterday and given that we weren
t using it, it was likely
   causing irritation.
   -          f/u thoracic recs
   -          NPO
   -          Nutrition consult, ? PPN (he has not received nutrition in 5
   days)
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled.
   - no active issues
   .
   # ?History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   # Mild hypernatremia:  Most likely mild dehydration.  With elevated
   BUN/Cr ratio consistent with it.
   - resolved w/IV hydration
   .
   # Boderline CE at OSH: no EKG changes here. Stable
   -telemetry
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time. Reasses prior to d/c.
   -monitor SBP
   .
   # FEN:  PEG Friday, PPN for nutrition, FS 150s; lack of BMs will give
   enema today.
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code
   .
   # Dispo: ICU, move towards possible extubation
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2127-11-12**] 06:13 PM 43 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-11-9**] 06:19 PM
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-14 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Thoracid recs for surgery tomorrow: NPO, active type+scren
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-12**] 09:40 PM
   Ciprofloxacin - [**2127-11-13**] 10:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-14**] 12:04 AM
   Fentanyl - [**2127-11-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-14**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 80 (69 - 91) bpm
   BP: 164/74(97) {117/60(73) - 164/78(97)} mmHg
   RR: 22 (17 - 23) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  2,371 mL
                                                                    795 mL
   PO:
             TF:
   IVF:
                                                                  1,122 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  5,780 mL
                                                                    340 mL
   Urine:
                                                                  5,780 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,409 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 594 (435 - 594) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 15.8 L/min
   Physical Examination
   NAD: intubated and alert, opens eyes and responds to commands
   HEENT: MMM anicteric, PERRL, small 1-2mm, Aspen collar on
   CV:RRR S1S2 no m/r/g
   PULM: clear b/l with scant crackles at bases b/l
   ABD: soft, nondistended +bs, nondistended
   EXT: warm, well perfused
   NEURO: alert, wakes to voice, only responds to some questions not to
   all. Able to wiggle toes, squeeze down with both hands
   Labs / Radiology
   292 K/uL
   10.1 g/dL
   124 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   26 mg/dL
   100 mEq/L
   134 mEq/L
   27.8 %
   6.8 K/uL
        [image002.jpg]
                            [**2127-11-8**]  03:15 AM
                            [**2127-11-9**]  02:00 AM
                            [**2127-11-10**]  02:42 AM
                            [**2127-11-11**]  03:40 AM
                            [**2127-11-11**]  10:00 AM
                            [**2127-11-12**]  12:39 AM
                            [**2127-11-12**]  02:11 PM
                            [**2127-11-13**]  04:33 AM
                            [**2127-11-13**]  11:06 AM
                            [**2127-11-14**]  03:28 AM
   WBC
   8.2
   8.2
   9.1
   8.3
   6.6
   6.6
   6.8
   Hct
   31.8
   31.4
   30.2
   29.1
   28.1
   26.8
   27.8
   Plt
   195
   203
   209
   190
   243
   249
   292
   Cr
   0.9
   0.9
   1.0
   0.9
   0.8
   0.9
   0.9
   1.0
   0.9
   TropT
   0.02
   Glucose
   119
   107
   132
   122
   125
   121
   114
   121
   134
   124
   Other labs: PT / PTT / INR:14.9/30.8/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall.
   .
   # Respiratory failure:  Treated for aspiration PNA with broad coverage
   antibiotics.  Left lung whiteout at OSH due to mucous plug which has
   improved after intubation.  He is doing very well on minimal vent
   settings this morning with minimal secretions. Pt had successful SBT
   yesterday, but will remain intubated for his PEG surgery tomorrow.
   Comfortable on PSV 5/5 will continue.
   - continue cipro, zosyn. Today day 6 of 8 day course.
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Aspen collar removed while intubated and bed-bound by surgery
   - f/u any new recs from spine
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. Will have PEG
   placement with thoracic service Friday. Pre-op things to do: AM labs,
   active T&C, ? pre-op EKG. NG was removed due to small amount of emesis
   yesterday and given that we weren
t using it, it was likely causing
   irritation.
   -          f/u thoracic recs
   -          NPO
   -          Nutrition consult, ? PPN (he has not received nutrition in 5
   days)
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled.
   - no active issues
   .
   # ?History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   # Mild hypernatremia:  Most likely mild dehydration.  With elevated
   BUN/Cr ratio consistent with it.
   - resolved w/IV hydration
   .
   # Boderline CE at OSH: no EKG changes here. Stable
   -telemetry
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time. Reasses prior to d/c.
   -monitor SBP
   .
   # FEN:  PEG Friday, PPN for nutrition, FS 150s; lack of BMs will give
   enema today.
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code
   .
   # Dispo: ICU, move towards possible extubation
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2127-11-13**] 06:02 PM 83.[**Telephone/Fax (5) 2407**]
   mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   20 Gauge - [**2127-11-13**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-15 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR RECEIVED - At [**2127-11-14**] 10:30 AM
   -s/p OR, weaning off sedation and AC, now on PSV
   -Had G, J tube placed
   -hyponatremic to 129, rechecked and back to 131, 134 this am
   -lasix 40mg IV x 2 to help w/diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-14**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-14**] 07:20 PM
   Ciprofloxacin - [**2127-11-14**] 10:38 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2127-11-14**] 03:15 PM
   Furosemide (Lasix) - [**2127-11-14**] 03:20 PM
   Heparin Sodium (Prophylaxis) - [**2127-11-15**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-15**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 80 (65 - 86) bpm
   BP: 162/67(86) {118/61(73) - 170/82(104)} mmHg
   RR: 28 (11 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,654 mL
                                                                    623 mL
   PO:
             TF:
   IVF:
                                                                  1,762 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                  1,240 mL
   Urine:
                                                                  3,190 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    464 mL
                                                                   -617 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 413 (413 - 528) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 14 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 12.5 L/min
   Physical Examination
   General: Sedated, intubated, opens eyes to voice, shakes head no to
   pain
   HEENT: PERRL. EOMI. OP clear
   CV: RRR. Early systolic [**12-25**] murmur LUSB. No r/g
   Resp: CTAB
   Abd: Soft, G, J tube in place. Dsg C/D/I
   Ext: Trace edema b/
   Neuro: Responds to voice, squeezes hands b/l. MAE
   Labs / Radiology
   377 K/uL
   11.0 g/dL
   121 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   27 mg/dL
   98 mEq/L
   134 mEq/L
   29.9 %
   18.3 K/uL
        [image002.jpg]
                            [**2127-11-11**]  03:40 AM
                            [**2127-11-11**]  10:00 AM
                            [**2127-11-12**]  12:39 AM
                            [**2127-11-12**]  02:11 PM
                            [**2127-11-13**]  04:33 AM
                            [**2127-11-13**]  11:06 AM
                            [**2127-11-14**]  03:28 AM
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
   WBC
   8.3
   6.6
   6.6
   6.8
   18.3
   Hct
   29.1
   28.1
   26.8
   27.8
   29.9
   Plt
   190
   243
   249
   292
   377
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   0.9
   1.0
   1.0
   1.0
   Glucose
   122
   125
   121
   114
   121
   134
   124
   152
   144
   121
   Other labs: PT / PTT / INR:15.5/33.8/1.4, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:22/29, Alk Phos / T Bili:89/1.4,
   Lactic Acid:1.2 mmol/L, LDH:249 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall now s/p G, J tube placement.
   .
   # Respiratory failure:  Treated for aspiration PNA with broad coverage
   antibiotics.  Left lung whiteout at OSH due to mucous plug which has
   improved after intubation.  Out of the OR he was maintained on AC then
   transitioned to PSV. Plan to wean off PSV, currently on SBT with plans
   for possible extubation when more awake. No recent CXR to assess volume
   status but may need Lasix 40 IV if develops any respiratory distress
   after extubation since no longer has positive pressure.
   - will discontinue cipro, zosyn, vanco after today. Today day 8 of 8
   day course.
   -lasix for diuresis as needed
   -On SBT, plan to extubate
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Aspen collar off at this time; will replace now prior to extubation
   and as needed when more awake
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. S/p OR
   yesterday with successful G and J tube placement, unable to repair
   hernia.
   -          G tube to gravity for now, will start J tube trophic feeds
   at 20cc/hour
   -          NPO
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled.
   - no active issues
   .
   # leukocytosis: WBC increased today likely [**12-21**] post-op stress from
   demargination. No fevers. Will CIS, follow WBC trend. Possible sources
   include VAP although resp status improved, UTI with foley in place,
   post op wound infection.
   -          CIS
   -          Trend WBC
   .
   # ?History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   # Mild hyponatremia:  Was most likely dilutional [**12-21**] intraop fluids.
   Hyponatremia improved overnight.
   .
   # Boderline CE at OSH: no EKG changes here. Stable
   -telemetry
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was on
   Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   # Leukocytosis: Likely post-op. No fevers. CIS. Continue to trend
   .
   # FEN:  TF today with PO meds; replete electrolytes prn;
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code
   .
   # Dispo: ICU, move towards possible extubation
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2127-11-14**] 07:20 PM 83.[**Telephone/Fax (5) 2407**]
   mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   20 Gauge - [**2127-11-13**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-16 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2127-11-15**] 01:43 PM
   Extubated
   ABx Discontinued as had completed course (Vanco/Zosyn/Cipro)
   Lasix 40 IV x 1
   TFs started at 10cc hour advanced to 20 via J tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-15**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-15**] 07:30 PM
   Ciprofloxacin - [**2127-11-15**] 10:48 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-15**] 08:00 AM
   Furosemide (Lasix) - [**2127-11-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2127-11-16**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-16**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 85 (67 - 87) bpm
   BP: 126/58(71) {96/48(60) - 148/79(92)} mmHg
   RR: 28 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,687 mL
                                                                    112 mL
   PO:
             TF:
             55 mL
   IVF:
                                                                  1,313 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                  3,340 mL
                                                                    800 mL
   Urine:
                                                                  3,340 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                   -689 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 509 (509 - 509) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 80%
   RSBI: 58
   SpO2: 96%
   ABG: ///28/
   Ve: 12.7 L/min
   Physical Examination
   General: Sedated, intubated, opens eyes to voice, shakes head no to
   pain
   HEENT: PERRL. R pupil 1mm, L pupil 2mm. EOMI. OP clear
   CV: RRR. Early systolic [**12-25**] murmur LUSB. No r/g
   Resp: CTAB
   Abd: Soft, G, J tube in place. Dsg C/D/I
   Ext: Trace edema b/
   Neuro: Responds to voice, squeezes hands b/l. MAE
   Labs / Radiology
   369 K/uL
   11.0 g/dL
   106 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.3 mEq/L
   29 mg/dL
   97 mEq/L
   133 mEq/L
   30.4 %
   15.7 K/uL
        [image002.jpg]
                            [**2127-11-11**]  10:00 AM
                            [**2127-11-12**]  12:39 AM
                            [**2127-11-12**]  02:11 PM
                            [**2127-11-13**]  04:33 AM
                            [**2127-11-13**]  11:06 AM
                            [**2127-11-14**]  03:28 AM
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
   WBC
   6.6
   6.6
   6.8
   18.3
   15.7
   Hct
   28.1
   26.8
   27.8
   29.9
   30.4
   Plt
   243
   249
   292
   377
   369
   Cr
   0.8
   0.9
   0.9
   1.0
   0.9
   1.0
   1.0
   1.0
   1.0
   Glucose
   125
   121
   114
   121
   134
   124
   152
   144
   121
   106
   Other labs: PT / PTT / INR:15.5/33.8/1.4, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:30/50, Alk Phos / T Bili:123/3.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:262 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall now s/p G, J tube placement.
   .
   # Respiratory failure:  Treated for aspiration PNA with broad coverage
   antibiotics.  Left lung whiteout at OSH due to mucous plug which has
   improved after intubation.  Out of the OR he was maintained on AC then
   transitioned to PSV. Plan to wean off PSV, currently on SBT with plans
   for possible extubation when more awake. No recent CXR to assess volume
   status but may need Lasix 40 IV if develops any respiratory distress
   after extubation since no longer has positive pressure.
   - will discontinue cipro, zosyn, vanco after today. Today day 8 of 8
   day course.
   -lasix for diuresis as needed
   -On SBT, plan to extubate
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Aspen collar off at this time; will replace now prior to extubation
   and as needed when more awake
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. S/p OR
   yesterday with successful G and J tube placement, unable to repair
   hernia.
   -          G tube to gravity for now, will start J tube trophic feeds
   at 20cc/hour
   -          NPO
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled.
   - no active issues
   .
   # leukocytosis: WBC increased today likely [**12-21**] post-op stress from
   demargination. No fevers. Will CIS, follow WBC trend. Possible sources
   include VAP although resp status improved, UTI with foley in place,
   post op wound infection.
   -          CIS
   -          Trend WBC
   .
   # ?History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   # Mild hyponatremia:  Was most likely dilutional [**12-21**] intraop fluids.
   Hyponatremia improved overnight.
   .
   # Boderline CE at OSH: no EKG changes here. Stable
   -telemetry
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was on
   Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   # Leukocytosis: Likely post-op. No fevers. CIS. Continue to trend
   .
   # FEN:  TF today with PO meds; replete electrolytes prn;
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code
   .
   # Dispo: ICU, move towards possible extubation
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Nutren 2.0 ([**11-22**]) - [**2127-11-16**] 12:09 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   20 Gauge - [**2127-11-13**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-17 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2127-11-16**] 03:30 PM
   - CXR performed revealed near white-out of left lung
   - Pt re-intubated after family discussion
   - Chest PT with suction, much improved CXR, bronchoscopy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-15**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-15**] 07:30 PM
   Ciprofloxacin - [**2127-11-15**] 10:48 PM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-16**] 08:00 AM
   Furosemide (Lasix) - [**2127-11-16**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-17**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.5
   HR: 86 (72 - 89) bpm
   BP: 98/50(62) {92/47(59) - 151/85(91)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    323 mL
                                                                     86 mL
   PO:
             TF:
                                                                    171 mL
   IVF:
                                                                    102 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    180 mL
   Urine:
                                                                  2,440 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,117 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 103
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: 7.53/37/62/30/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383 K/uL
   10.8 g/dL
   92 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.1 mEq/L
   34 mg/dL
   98 mEq/L
   137 mEq/L
   31.1 %
   16.2 K/uL
        [image002.jpg]
                            [**2127-11-13**]  04:33 AM
                            [**2127-11-13**]  11:06 AM
                            [**2127-11-14**]  03:28 AM
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
   WBC
   6.6
   6.8
   18.3
   15.7
   16.2
   Hct
   26.8
   27.8
   29.9
   30.4
   31.1
   Plt
   249
   292
   377
   369
   383
   Cr
   0.9
   1.0
   0.9
   1.0
   1.0
   1.0
   1.0
   1.1
   TCO2
   36
   32
   Glucose
   121
   134
   124
   152
   144
   121
   106
   92
   Other labs: PT / PTT / INR:15.5/33.8/1.4, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall now s/p G, J tube placement.
   .
   # Respiratory failure:  Treated for aspiration PNA with broad coverage
   antibiotics.  Left lung whiteout at OSH due to mucous plug which has
   improved after intubation.  Out of the OR he was maintained on AC then
   transitioned to PSV. Plan to wean off PSV, currently on SBT with plans
   for possible extubation when more awake. No recent CXR to assess volume
   status but may need Lasix 40 IV if develops any respiratory distress
   after extubation since no longer has positive pressure.   Off Abx,
   extubated but ronchorus breath sounds with min cough suggest continued
   aspiration.  Latest CXR suggests aspiration PNA recurrence.  WBC count
   rising with temp 100.8
   - restart Cipro, Vanc, Zosyn
   - will readdress the goals of care with family based on chronic
   aspiration
   - lasix PRN
   - AM CXR
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. S/p OR
   yesterday with successful G and J tube placement, unable to repair
   hernia.
   - G tube to gravity for now, restart J tube feeds at 20cc/hour
   - NPO
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled sans meds.  Normotensive.
   - no active issues
   .
   # Leukocytosis: rising WBC increased yesterday, now decreasing with no
   fevers over last 24 hours.
   - Trend WBC
   - pan culture if fever spikes/worsening WBC
   .
   # History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   # Mild hyponatremia:  Hyponatremic on admission with mild imptovement.
   Will cont to monitor.
   .
   # Boderline CE at OSH: no EKG changes here. Stable
   -telemetry
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was on
   Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # FEN:  TF; replete electrolytes prn;
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]
   .
   # Code: Full Code
   .
   # Dispo: ICU
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   20 Gauge - [**2127-11-13**] 04:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-17 11:42:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2127-11-16**] 03:30 PM
   Required reintubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-15**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-15**] 07:30 PM
   Ciprofloxacin - [**2127-11-15**] 10:48 PM
   Infusions:
   Fentanyl - 20 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2127-11-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-17**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.2
   HR: 66 (66 - 86) bpm
   BP: 104/58(69) {92/41(59) - 151/85(91)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    323 mL
                                                                  1,159 mL
   PO:
             TF:
                                                                    171 mL
   IVF:
                                                                    102 mL
                                                                  1,159 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    285 mL
   Urine:
                                                                  2,440 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,117 mL
                                                                    874 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.53/37/62/30/7
   Ve: 8.9 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General: intubated and unresponsive
   HEENT: NCAT, pinpoint pupils
   CV: Irregular rhythm,
   Resp: ronchorus BS, minimal cough
   Abd: Soft, G, J tube in place
   Ext: Trace edema b/
   Neuro: Not responsive to voice or tactile stim
   Labs / Radiology
   10.8 g/dL
   383 K/uL
   92 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.1 mEq/L
   34 mg/dL
   98 mEq/L
   137 mEq/L
   31.1 %
   16.2 K/uL
        [image002.jpg]
                            [**2127-11-13**]  04:33 AM
                            [**2127-11-13**]  11:06 AM
                            [**2127-11-14**]  03:28 AM
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
   WBC
   6.6
   6.8
   18.3
   15.7
   16.2
   Hct
   26.8
   27.8
   29.9
   30.4
   31.1
   Plt
   249
   292
   377
   369
   383
   Cr
   0.9
   1.0
   0.9
   1.0
   1.0
   1.0
   1.0
   1.1
   TCO2
   36
   32
   Glucose
   121
   134
   124
   152
   144
   121
   106
   92
   Other labs: PT / PTT / INR:15.5/33.8/1.4, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   1.       Resp Failure: failed extubation, back on AC, will try to
   switch back to PSV as able but sedated this AM and not spont breathing.
   CXR worse and has fevers and luekocytosis. Will Rx for VAP with Vanco
   Zosyn Cipro and obtain cultures via mini Bal. Ongoing discussions with
   family re trach.
   2.       Malnutrition: restart TFs and give 1 liter OIVF as he was NPO
   all day.
   3.       ARF: dehydration try IVF
   Trying to arrange family meeting with wife and children to clarify
   trach and goals of care
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: restart TFs
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:  try to rearrange family meeting
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-11-18 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-11-17**] 12:20 PM
 SPUTUM CULTURE - At [**2127-11-17**] 12:20 PM
 BLOOD CULTURED - At [**2127-11-17**] 12:35 PM
   [**2127-11-18**] Events:
   - No acute issues overnight
   - Mini-BAL done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-17**] 02:45 PM
   Ciprofloxacin - [**2127-11-17**] 10:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2127-11-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-18**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 73 (66 - 84) bpm
   BP: 134/57(77) {97/41(60) - 143/66(82)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,334 mL
                                                                  1,144 mL
   PO:
             TF:
                                                                    178 mL
                                                                    136 mL
   IVF:
                                                                  4,107 mL
                                                                  1,008 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    100 mL
   Urine:
                                                                    545 mL
                                                                    100 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,689 mL
                                                                  1,044 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 11.2 L/min
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline
   CV: irreg.  No m/r/g
   Resp: Coarse, rhonchorous BS
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No c/c/e
   Neuron: Alert, awake, MAE
   Labs / Radiology
   340 K/uL
   9.3 g/dL
   128 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.3 mEq/L
   37 mg/dL
   106 mEq/L
   139 mEq/L
   26.4 %
   9.5 K/uL
        [image002.jpg]
                            [**2127-11-13**]  11:06 AM
                            [**2127-11-14**]  03:28 AM
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
   WBC
   6.8
   18.3
   15.7
   16.2
   9.5
   Hct
   27.8
   29.9
   30.4
   31.1
   26.4
   Plt
   292
   377
   369
   383
   340
   Cr
   1.0
   0.9
   1.0
   1.0
   1.0
   1.0
   1.1
   1.0
   TCO2
   36
   32
   Glucose
   134
   124
   152
   144
   121
   106
   92
   128
   Other labs: PT / PTT / INR:14.1/28.3/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging
   CXR [**11-17**]: Collapse left lower lung with pleural effusion. Opacity r
   base
   Micro
   Sputum cx x 2: no growth. Poor specimens. Blood cx x 2 [**11-17**] NGTD
   Trends
   HCT 26<-31
   WBC 9.5<-16.2
   Assessment and Plan
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall now s/p G, J tube placement.
   .
   # Respiratory failure:  Treated for aspiration PNA with broad coverage
   antibiotics.  Left lung whiteout at OSH due to mucous plug which had
   improved after intubation then re-aspirated after extubation and
   re-intubated.  Likely will repeatedly aspirate so need to discuss and
   decide on possibility of trach with family.  Latest CXR suggests
   aspiration PNA recurrence but no CXR today.  WBC count had risen
   yesterday with temp 100.8, but now afebrile with declining WBC on abx.
   Currently on AC but can change over to PSV, atttempt SBT
   - restart Cipro, Vanc, Zosyn Day [**12-27**] althouggh may need longer course
   - follow up mini BAL
   - will readdress the goals of care with family based on chronic
   aspiration, consider trach
   - lasix PRN, will attempt to keep even for now
   - AM CXR
   - CIS
   - PSV, possible SBT if tolerates
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. S/p OR with
   successful G and J tube placement, unable to repair hernia.
   - G tube to gravity for now
   -  J tube feeds at 20cc/hour, will increase as tolerated, check
   residuals
   - NPO
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled sans meds.  Normotensive.
   - no active issues
   .
   # Leukocytosis: rising WBC increased yesterday, now decreasing 9 from
   16 with no fevers over last 24 hours.
   - Trend WBC
   - pan culture if fever spikes/worsening WBC
   - continue abx
   .
   # History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   # Mild hyponatremia:  Improved.  Will cont to monitor.
   .
   # Boderline CE at OSH: no EKG changes here. Stable
   -telemetry
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was on
   Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct drop 31 to 26. Possibly hemodilution. No obvious blood
   loss
   -          guaiac stool
   -          - maintain active T and S
   -          .
   # FEN:  TF (increase rate) via j tube; replete electrolytes prn;
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]; Family
   meeting today if possible
   .
   # Code: Full Code
   .
   # Dispo: ICU
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Nutren 2.0 ([**11-22**]) - [**2127-11-17**] 12:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-18 08:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2127-11-17**] 12:20 PM
 SPUTUM CULTURE - At [**2127-11-17**] 12:20 PM
 BLOOD CULTURED - At [**2127-11-17**] 12:35 PM
   Spoke with wife and she is looking towards trach, trying to set up
   family meeting
   Started Rx for VAP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-17**] 02:45 PM
   Ciprofloxacin - [**2127-11-17**] 10:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-18**] 12:00 AM
   Other medications:
   Protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-18**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 73 (66 - 79) bpm
   BP: 134/57(77) {97/45(60) - 143/66(82)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,334 mL
                                                                  1,192 mL
   PO:
             TF:
                                                                    178 mL
                                                                    168 mL
   IVF:
                                                                  4,107 mL
                                                                  1,024 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    100 mL
   Urine:
                                                                    545 mL
                                                                    100 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,689 mL
                                                                  1,092 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 11.2 L/min
   Physical Examination
   General: intubated but able to respond to voice
   HEENT: NCAT, ETT
   CV: Irregular rhythm,
   Resp: ronchorus BS, minimal cough
   Abd: Soft, G, J tube in place
   Ext: Trace edema b/
   Neuro: tracks, respinds to voice, not reliably following commands
   Labs / Radiology
   9.3 g/dL
   340 K/uL
   128 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.3 mEq/L
   37 mg/dL
   106 mEq/L
   139 mEq/L
   26.4 %
   9.5 K/uL
        [image002.jpg]
                            [**2127-11-13**]  11:06 AM
                            [**2127-11-14**]  03:28 AM
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
   WBC
   6.8
   18.3
   15.7
   16.2
   9.5
   Hct
   27.8
   29.9
   30.4
   31.1
   26.4
   Plt
   292
   377
   369
   383
   340
   Cr
   1.0
   0.9
   1.0
   1.0
   1.0
   1.0
   1.1
   1.0
   TCO2
   36
   32
   Glucose
   134
   124
   152
   144
   121
   106
   92
   128
   Other labs: PT / PTT / INR:14.1/28.3/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
        1.  Resp Failure: failed extubation, remained on AC yesterday as
   sedation was weaned.  More awake this AM - will try to switch back to
   PSV. CXR worse yesterday with fevers and leukocytosis.  Rx
ing for VAP
   with Vanco Zosyn Cipro and follow up cultures via mini Bal. Ongoing
   discussions with family re trach.
   2.       ARF: stable s/p resuscitation yesrday with good effect, run
   even from here out  - goal UOP 20-30cc/hr
   Trying to arrange family meeting with wife and children to clarify
   trach and goals of care
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: Nutren 2.0 ([**11-22**]) - [**2127-11-17**] 12:15 PM 20 mL/hour
 need to
   advance
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with wife
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-11-19 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-18**] 08:47 AM
   Ciprofloxacin - [**2127-11-18**] 10:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-19**] 05:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-18**] 08:58 AM
   Heparin Sodium (Prophylaxis) - [**2127-11-18**] 04:30 PM
   Midazolam (Versed) - [**2127-11-18**] 04:30 PM
   Furosemide (Lasix) - [**2127-11-18**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-19**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.3
   HR: 72 (63 - 85) bpm
   BP: 139/67(86) {103/48(67) - 154/81(93)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,371 mL
                                                                    465 mL
   PO:
             TF:
                                                                    481 mL
                                                                    152 mL
   IVF:
                                                                  1,590 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                    450 mL
   Urine:
                                                                  1,387 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    984 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 552 (431 - 552) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.51/37/150/27/6
   Ve: 9.2 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline
   CV: irreg.  No m/r/g
   Resp: Coarse, rhonchorous BS
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No c/c/e
   Neuron: Alert, awake, MAE
   Labs / Radiology
   350 K/uL
   9.4 g/dL
   127 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.3 mEq/L
   36 mg/dL
   106 mEq/L
   140 mEq/L
   26.8 %
   8.3 K/uL
         [image002.jpg]
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
   WBC
   18.3
   15.7
   16.2
   9.5
   8.3
   Hct
   29.9
   30.4
   31.1
   26.4
   26.8
   Plt
   377
   369
   383
   340
   350
   Cr
   1.0
   1.0
   1.0
   1.0
   1.1
   1.0
   1.1
   TCO2
   36
   32
   31
   Glucose
   152
   144
   121
   106
   92
   128
   127
   Other labs: PT / PTT / INR:14.1/28.3/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   [**Age over 90 **] y/o gentleman with hypertension, atrial fibrillation, esophageal
   stricture and history of aspiration presented to [**Hospital3 519**] on
   [**2127-11-4**] with C5 fracture after a fall now s/p G, J tube placement.
   .
   # Respiratory failure:  Treated for aspiration PNA with broad coverage
   antibiotics.  Left lung whiteout at OSH due to mucous plug which had
   improved after intubation then re-aspirated after extubation and
   re-intubated.  Likely will repeatedly aspirate so need to discuss and
   decide on possibility of trach with family.  Latest CXR suggests
   aspiration PNA recurrence but no CXR today.  WBC count had risen
   yesterday with temp 100.8, but now afebrile with declining WBC on abx.
   Currently on AC but can change over to PSV, atttempt SBT
   - restart Cipro, Vanc, Zosyn Day [**12-27**] althouggh may need longer course
   - follow up mini BAL
   - will readdress the goals of care with family based on chronic
   aspiration, consider trach
   - lasix PRN, will attempt to keep even for now
   - AM CXR
   - CIS
   - PSV, possible SBT if tolerates
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   .
   # H/o esophageal strictures/hernia:  At least 3 dilatations this year
   per outside hospital verbal signout.  Also has significant hiatal
   hernia which has prevented successful placement of OG/NG. S/p OR with
   successful G and J tube placement, unable to repair hernia.
   - G tube to gravity for now
   -  J tube feeds at 20cc/hour, will increase as tolerated, check
   residuals
   - NPO
   .
   # Atrial fib/flutter:  No history of afib per wife.  Hemodynamically
   stable, rate controlled sans meds.  Normotensive.
   - no active issues
   .
   # Leukocytosis: rising WBC increased yesterday, now decreasing 9 from
   16 with no fevers over last 24 hours.
   - Trend WBC
   - pan culture if fever spikes/worsening WBC
   - continue abx
   .
   # History of multiple falls:
   - PT/OT eval once acute issues are taken care of
   # Mild hyponatremia:  Improved.  Will cont to monitor.
   .
   # Boderline CE at OSH: no EKG changes here. Stable
   -telemetry
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was on
   Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct drop 31 to 26. Possibly hemodilution. No obvious blood
   loss
   -          guaiac stool
   -          - maintain active T and S
   -          .
   # FEN:  TF (increase rate) via j tube; replete electrolytes prn;
   .
   # Prophylaxis: sc heparin, PPI
   .
   # Access: PICC placed, PIV
   .
   # Contact: Wife HCP [**Name (NI) 137**] [**Name (NI) 3367**] [**Telephone/Fax (3) 3368**]; Family
   meeting today if possible
   .
   # Code: Full Code
   .
   # Dispo: ICU
   1.  Resp Failure: failed extubation, remained on AC yesterday as
   sedation was weaned.  More awake this AM - will try to switch back to
   PSV. CXR worse yesterday with fevers and leukocytosis.  Rx
ing for VAP
   with Vanco Zosyn Cipro and follow up cultures via mini Bal. Ongoing
   discussions with family re trach.
   2.       ARF: stable s/p resuscitation yesrday with good effect, run
   even from here out  - goal UOP 20-30cc/hr
   Trying to arrange family meeting with wife and children to clarify
   trach and goals of care
   ICU Care
   Nutrition:
   Fibersource HN ([**11-22**]) - [**2127-11-18**] 11:24 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-19 10:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Sedation held and more awake though not consistently following commands
   Back on PSV
   Plans for family meeting today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-18**] 10:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-19**] 05:01 AM
   Vancomycin - [**2127-11-19**] 09:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-18**] 04:30 PM
   Midazolam (Versed) - [**2127-11-18**] 04:30 PM
   Furosemide (Lasix) - [**2127-11-18**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-19**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 81 (66 - 85) bpm
   BP: 133/69(82) {103/48(67) - 145/76(93)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,371 mL
                                                                    843 mL
   PO:
             TF:
                                                                    481 mL
                                                                    288 mL
   IVF:
                                                                  1,590 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                    570 mL
   Urine:
                                                                  1,387 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    984 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 454 (431 - 552) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.51/37/150/27/6
   Ve: 10.3 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General: intubated but able to respond to voice
   HEENT: NCAT, ETT
   CV: Irregular rhythm,
   Resp: ronchorus BS, minimal cough
   Abd: Soft, G, J tube in place
   Ext: Trace edema b/
   Neuro: tracks, responds to voice, not reliably following commands
   Labs / Radiology
   9.4 g/dL
   350 K/uL
   127 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.3 mEq/L
   36 mg/dL
   106 mEq/L
   140 mEq/L
   26.8 %
   8.3 K/uL
        [image002.jpg]
                            [**2127-11-14**]  06:40 PM
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
   WBC
   18.3
   15.7
   16.2
   9.5
   8.3
   Hct
   29.9
   30.4
   31.1
   26.4
   26.8
   Plt
   377
   369
   383
   340
   350
   Cr
   1.0
   1.0
   1.0
   1.0
   1.1
   1.0
   1.1
   TCO2
   36
   32
   31
   Glucose
   152
   144
   121
   106
   92
   128
   127
   Other labs: PT / PTT / INR:14.1/28.3/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   1.  Resp Failure: failed extubation due to mucus plugging and hypxemic
   resp distress. Back on PSV and CXR with better left sided aeration
   Rx
ing for VAP with Vanco Zosyn CiproDay 3 and leukocytosis improving.
   Follow up cultures via mini Bal. Ongoing discussions with family re
   trach.
   2.       ARF: stable s/p resuscitation. Running on the positive side
   and need to watch for worsening pulm edema,
   Family meeting with wife and children to clarify trach and goals of
   care for approx 3PM.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Fibersource HN ([**11-22**]) - [**2127-11-19**] 07:09 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: H(OB chlorhex
   Communication:  with wife
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 35
   ------ Protected Section ------
   From resp standpint we will drop to [**3-24**] and re evaluate his progress.
   Will not plan for any extubation trials until family meeting however
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 202**], MD
   on:[**2127-11-19**] 11:54 AM ------

2127-11-20 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased pt's pressure support [**8-23**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-18**] 10:55 AM
   Vancomycin - [**2127-11-19**] 09:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-19**] 12:45 PM
   Piperacillin - [**2127-11-19**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-20**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 75 (61 - 81) bpm
   BP: 133/63(81) {108/49(64) - 145/83(95)} mmHg
   RR: 21 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,953 mL
                                                                    445 mL
   PO:
             TF:
                                                                  1,013 mL
                                                                    375 mL
   IVF:
                                                                    840 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    335 mL
   Urine:
                                                                  1,000 mL
                                                                    210 mL
   NG:
   125 mL
   Stool:
   Drains:
   Balance:
                                                                    953 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (384 - 522) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.5 L/min
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Coarse, rhonchorous BS
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No c/c/e
   Neuron: Alert, awake, MAE
   Labs / Radiology
   346 K/uL
   10.6 g/dL
   138 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   30.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
   WBC
   18.3
   15.7
   16.2
   9.5
   8.3
   9.3
   Hct
   29.9
   30.4
   31.1
   26.4
   26.8
   30.2
   Plt
   377
   369
   383
   [**Telephone/Fax (3) 3671**]
   Cr
   1.0
   1.0
   1.0
   1.1
   1.0
   1.1
   1.0
   TCO2
   36
   32
   31
   Glucose
   144
   121
   106
   92
   128
   127
   138
   Other labs: PT / PTT / INR:14.1/28.3/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**11-3**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA
   .
   # Respiratory Failure: [**12-22**] to aspiration PNA. Improve aeration on CXR.
   Currently on Vanc/Zosyn/Cipro day #3. Low grade fevers and resolved
   leukocytosis. Now on PS 10/5 40% Fi02.   ABG this AM shows met
   alkalosis
   - Cont Cipro, Vanc, Zosyn Day currently day  [**2-25**]
   - follow up mini BAL cultures
 bacterial neg, fungal pends
   - will readdress trach possibility with family. Family meeting time at
   3pm on [**2127-11-20**].
   - Lasix PRN, will attempt to keep even for now
   - Wean vent as tolerated
   .
   # ARF: UOP fluctuating, responds to Lasix.  Decreased UOP since
   midnight.  Overall fluid positive. Met alkalosis
   - Lasix this AM
   - Maintain goal of 20-30cc/hr
   .
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   .
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   .
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   .
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 27 for last two days now at 30
   - guaiac stool, prn
   - maintain active T and S
   -          .
   # FEN:  TF (new goal of 40) via j tube; replete electrolytes prn;
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-20 11:23:00 Physician Attending Progress Note
Chief Complaint: resp failure C soine fx
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PSV 5/5 by day and [**8-23**] tonight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-18**] 10:55 AM
   Vancomycin - [**2127-11-19**] 09:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-19**] 12:45 PM
   Piperacillin - [**2127-11-19**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-20**] 08:48 AM
   Heparin Sodium (Prophylaxis) - [**2127-11-20**] 08:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-20**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 67 (61 - 75) bpm
   BP: 135/79(88) {108/49(64) - 145/83(95)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,953 mL
                                                                    529 mL
   PO:
             TF:
                                                                  1,013 mL
                                                                    406 mL
   IVF:
                                                                    840 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    433 mL
   Urine:
                                                                  1,000 mL
                                                                    308 mL
   NG:
   125 mL
   Stool:
   Drains:
   Balance:
                                                                    953 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (406 - 522) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 11.2 L/min
   Physical Examination
   General: intubated but able to respond to voice
   HEENT: NCAT, ETT
   CV: Irregular rhythm,
   Resp: ronchorus BS, minimal cough
   Abd: Soft, G, J tube in place
   Ext: Trace edema b/
   Neuro: tracks, responds to voice, not reliably following commands
   Labs / Radiology
   10.6 g/dL
   346 K/uL
   138 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   30.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2127-11-14**]  08:25 PM
                            [**2127-11-15**]  04:00 AM
                            [**2127-11-16**]  04:05 AM
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
   WBC
   18.3
   15.7
   16.2
   9.5
   8.3
   9.3
   Hct
   29.9
   30.4
   31.1
   26.4
   26.8
   30.2
   Plt
   377
   369
   383
   [**Telephone/Fax (3) 3671**]
   Cr
   1.0
   1.0
   1.0
   1.1
   1.0
   1.1
   1.0
   TCO2
   36
   32
   31
   Glucose
   144
   121
   106
   92
   128
   127
   138
   Other labs: PT / PTT / INR:17.4/36.4/1.6, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   1.  Resp Failure: failed extubation due to mucus plugging and hypxemic
   resp distress. Back on PSV and CXR with better left sided aeration
   Rx
ing for VAP with Vanco Zosyn CiproDay 3 and leukocytosis improving.
   Follow up culture from  mini Bal negative but will complete 7 days Rx
   given clinical improvement
   Ongoing discussions with family re trach.
   Able to wean to [**3-23**] today.
   2.            ARF: stable s/p resuscitation. Running on the positive
   side and need to watch for worsening pulm edema, was even overnight
   because tube feeds were off. [**Month (only) 8**] need low dose lasix to keep even from
   here on.
   3.
   Family meeting with wife and children to clarify trach and goals of
   care for approx 3PM.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: chlorhex HOB
   Communication:  Family unable to meet yesterday due to snowstorm but
   would like pt try again today , 3PM
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-11-21 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Has continued alkalosis
   - Family meeting today came to the conclusion that he will have a trach
   placed, will need to contact general surgery in AM
   - Repeated ABG at 4:00am showed continued alkalosis, actually
   worsening, unclear etiology.
   Patient not responsive to questions other than shaking his head
   response to questions about pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-18**] 10:55 AM
   Vancomycin - [**2127-11-19**] 09:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-19**] 12:45 PM
   Piperacillin - [**2127-11-21**] 06:41 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-20**] 08:48 AM
   Heparin Sodium (Prophylaxis) - [**2127-11-21**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 68 (61 - 77) bpm
   BP: 115/56(70) {94/47(61) - 158/85(101)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,480 mL
                                                                    709 mL
   PO:
             TF:
                                                                  1,050 mL
                                                                    356 mL
   IVF:
                                                                    350 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                    843 mL
                                                                    245 mL
   Urine:
                                                                    668 mL
                                                                    145 mL
   NG:
                                                                    175 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    637 mL
                                                                    464 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 382 (382 - 490) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.55/36/127/29/9
   Ve: 7.8 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Clear anteriorly, unable to appreciate posterior exam
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: Bilateral pedal edema R>L
   Neuron: Alert, awake, MAE
   Labs / Radiology
   330 K/uL
   9.4 g/dL
   132 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.6 mEq/L
   32 mg/dL
   105 mEq/L
   140 mEq/L
   27.7 %
   7.3 K/uL
        [image002.jpg]
   CXR: ET Tube ~6cm from Carina.
   Fungal Cultures Pending
   12.29 BCx NGTD
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
   WBC
   16.2
   9.5
   8.3
   9.3
   7.3
   Hct
   31.1
   26.4
   26.8
   30.2
   27.7
   Plt
   383
   340
   350
   346
   330
   Cr
   1.1
   1.0
   1.1
   1.0
   1.0
   TCO2
   36
   32
   31
   30
   32
   Glucose
   92
   128
   127
   138
   132
   Other labs: PT / PTT / INR:13.7/28.7/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**11-3**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA
   # Respiratory Failure: [**12-22**] to aspiration PNA. Improve aeration on CXR.
   Currently on Vanc/Zosyn/Cipro day #5. Afebrile with leukocytosis
   resolved.
   - Cont Cipro, Vanc, Zosyn Day currently day  [**3-26**]
   - follow up mini BAL cultures
 bacterial neg, fungal pends
   - Planned for trach today per Thoracics
   - Wean vent as tolerated
   # ARF: UOP fluctuating, responds to Lasix.  Decreased UOP since
   midnight.  Overall fluid positive. Met alkalosis could be from
   contraction versus g tube losses.
   - Diamox trial in lieu of lasix for non-contracting diuresis
   - Maintain goal of 20-30cc/hr
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 27
   - guaiac stool, prn
   .
   # FEN:  Nutrition re-consulted to address tube feeds; replete
   electrolytes prn;
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-21 09:51:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting held. Significant dissent between one son and rest of
   family but decision made to go ahead with trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-18**] 10:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-19**] 12:45 PM
   Piperacillin - [**2127-11-21**] 06:41 AM
   Vancomycin - [**2127-11-21**] 07:51 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-21**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-21**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 64 (58 - 77) bpm
   BP: 100/45(58) {94/45(58) - 158/85(101)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,482 mL
                                                                  1,161 mL
   PO:
             TF:
                                                                  1,052 mL
                                                                    539 mL
   IVF:
                                                                    350 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                    843 mL
                                                                    315 mL
   Urine:
                                                                    668 mL
                                                                    215 mL
   NG:
                                                                    175 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    639 mL
                                                                    846 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 382 (382 - 440) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 18 cmH2O
   Plateau: 13 cmH2O
   SpO2: 95%
   ABG: 7.55/36/127/29/9
   Ve: 9.2 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General: intubated , sitting up in chair
   HEENT: NCAT, ETT
   CV: Irregular rhythm,
   Resp: ronchorus BS, minimal cough
   Abd: Soft, G, J tube in place
   Ext: Trace edema b/
   Neuro: tracks, responds to voice, not reliably following commands
   Labs / Radiology
   9.4 g/dL
   330 K/uL
   132 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.6 mEq/L
   32 mg/dL
   105 mEq/L
   140 mEq/L
   27.7 %
   7.3 K/uL
        [image002.jpg]
                            [**2127-11-16**]  12:02 PM
                            [**2127-11-16**]  12:52 PM
                            [**2127-11-17**]  02:18 AM
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
   WBC
   16.2
   9.5
   8.3
   9.3
   7.3
   Hct
   31.1
   26.4
   26.8
   30.2
   27.7
   Plt
   383
   340
   350
   346
   330
   Cr
   1.1
   1.0
   1.1
   1.0
   1.0
   TCO2
   36
   32
   31
   30
   32
   Glucose
   92
   128
   127
   138
   132
   Other labs: PT / PTT / INR:13.7/28.7/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   1.  Resp Failure: failed extubation due to mucus plugging and hypxemic
   resp distress. Back on PSV and CXR with better left sided aeration
   Rx
ing for VAP with Vanco Zosyn CiproDay 4 and leukocytosis improving.
   Follow up culture from  mini Bal negative but will complete 7 days Rx
   given clinical improvement
   Will consult Thoracis for trach
   2.            Alkalosis: etiology unclear? GI losses, doubt contraction
   since + everyday and really needs diuresis. Ask Nutrition about re
   feeding issues. Use Diamox for diuresis. Cycle bicarb and ABG
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition:  Fibersource HN ([**11-23**]) - [**2127-11-21**] 06:25 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2127-11-22 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Trach discussed with patient by nurse and patient refused.  Thoracics
   is consulted but holding off pending final decision.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-19**] 12:45 PM
   Vancomycin - [**2127-11-21**] 07:51 AM
   Piperacillin - [**2127-11-21**] 06:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-21**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-22**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 65 (59 - 76) bpm
   BP: 125/62(77) {100/45(58) - 144/85(107)} mmHg
   RR: 23 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,374 mL
                                                                    476 mL
   PO:
             TF:
                                                                  1,321 mL
                                                                    403 mL
   IVF:
                                                                    823 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    560 mL
   Urine:
                                                                  1,045 mL
                                                                    460 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 473 (410 - 490) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.51/37/152/26/6
   Ve: 13.9 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Clear anteriorly, unable to appreciate posterior exam
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: Bilateral pedal edema R>L
   Neuron: Alert, awake, MAE
   Labs / Radiology
   316 K/uL
   9.1 g/dL
   139 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   30 mg/dL
   107 mEq/L
   138 mEq/L
   26.2 %
   6.5 K/uL
        [image002.jpg]
   CXR: Rotated, similar RLL opacity compared to prior CXR, ET tube 4cm
   from Carina
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
   WBC
   9.5
   8.3
   9.3
   7.3
   6.5
   Hct
   26.4
   26.8
   30.2
   27.7
   26.2
   Plt
   [**Telephone/Fax (3) 3727**]30
   316
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   31
   30
   32
   31
   Glucose
   128
   127
   138
   132
   142
   139
   Other labs: PT / PTT / INR:14.5/71.1/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**11-3**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA
   # Respiratory Failure: [**12-22**] to aspiration PNA. Improve aeration on CXR.
   Currently on Vanc/Zosyn/Cipro day #5. Afebrile with leukocytosis
   resolved.
   - Cont Cipro, Vanc, Zosyn Day currently day  [**3-26**]
   - follow up mini BAL cultures
 bacterial neg, fungal pends
   - Planned for trach today per Thoracics
   - Wean vent as tolerated
   # ARF: UOP fluctuating, responds to Lasix.  Decreased UOP since
   midnight.  Overall fluid positive. Met alkalosis could be from
   contraction versus g tube losses.
   - Diamox trial in lieu of lasix for non-contracting diuresis
   - Maintain goal of 20-30cc/hr
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 27
   - guaiac stool, prn
   # FEN:  Nutrition re-consulted to address tube feeds; replete
   electrolytes prn;
   ICU Care
   Nutrition:
   Fibersource HN ([**11-23**]) - [**2127-11-22**] 12:33 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-22 13:14:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues on PSV 5/5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-22**] 07:52 AM
   Piperacillin - [**2127-11-22**] 11:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-22**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-22**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 78 (59 - 78) bpm
   BP: 130/59(73) {106/49(66) - 144/79(96)} mmHg
   RR: 25 (21 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,374 mL
                                                                  1,206 mL
   PO:
             TF:
                                                                  1,321 mL
                                                                    716 mL
   IVF:
                                                                    823 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                  1,000 mL
   Urine:
                                                                  1,045 mL
                                                                    900 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (410 - 490) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.51/37/152/26/6
   Ve: 12.3 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Gen: elderly makle sittin up in bed NAD
   HEENT: trach
   CVRR
   Chest coarse BS bilat, decreased at LLL
   ABd: soft NT
   Ext: no edema
   Neuro: eyes open to vopice, squeezes hands but not following other
   commands consistently
   Labs / Radiology
   9.1 g/dL
   316 K/uL
   139 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   30 mg/dL
   107 mEq/L
   138 mEq/L
   26.2 %
   6.5 K/uL
        [image002.jpg]
                            [**2127-11-18**]  03:33 AM
                            [**2127-11-19**]  02:30 AM
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
   WBC
   9.5
   8.3
   9.3
   7.3
   6.5
   Hct
   26.4
   26.8
   30.2
   27.7
   26.2
   Plt
   [**Telephone/Fax (3) 3727**]30
   316
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   31
   30
   32
   31
   Glucose
   128
   127
   138
   132
   142
   139
   Other labs: PT / PTT / INR:14.5/71.1/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   1.  Resp Failure: failed extubation due to mucus plugging and hypoxemic
   resp distress. PSV and CXR with better left sided aeration Rx
ing for
   VAP with Vanco Zosyn Cipro Day [**3-26**].
   2. Alkalosis: etiology unclear? GI losses, doubt contraction since +
   everyday and really needs diuresis. Ask Nutrition about re feeding
   issues. Use Diamox for diuresis. Cycle bicarb and ABG
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: Fibersource HN ([**11-23**]) - [**2127-11-22**] 12:33 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: HOB chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2127-11-23 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Blood gas improving on diamox
   - Trach will go ahead, Thoracics will contact spine re: neck extension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-22**] 07:52 AM
   Piperacillin - [**2127-11-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-22**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-23**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 56 (56 - 83) bpm
   BP: 111/60(71) {100/46(59) - 143/69(83)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,135 mL
                                                                    686 mL
   PO:
             TF:
                                                                  1,325 mL
                                                                    186 mL
   IVF:
                                                                    650 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    400 mL
   Urine:
                                                                  1,495 mL
                                                                    300 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (395 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 7.9 L/min
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain,
   follows commands
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Clear anteriorly, unable to appreciate posterior exam
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No edema
   Neuro: Awake possibly following commands
   Labs / Radiology
   281 K/uL
   9.2 g/dL
   103 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.7 mEq/L
   29 mg/dL
   108 mEq/L
   138 mEq/L
   26.6 %
   6.6 K/uL
        [image002.jpg]
   CXR: Blunting of R costophrenic angle
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
                             [**2127-11-22**]  05:01 PM
                             [**2127-11-23**]  04:42 AM
   WBC
   9.3
   7.3
   6.5
   6.6
   Hct
   30.2
   27.7
   26.2
   26.6
   Plt
   346
   330
   316
   281
   Cr
   1.0
   1.0
   1.0
   1.0
   1.1
   1.1
   TCO2
   31
   30
   32
   31
   Glucose
   138
   132
   142
   139
   140
   103
   Other labs: PT / PTT / INR:13.5/28.6/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**11-3**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA
   # Respiratory Failure: [**12-22**] to aspiration PNA. Improve aeration on CXR.
   Currently on Vanc/Zosyn/Cipro day #5. Afebrile with leukocytosis
   resolved.
   - Cont Cipro, Vanc, Zosyn Day currently day  [**3-26**]
   - follow up mini BAL cultures
 bacterial neg, fungal pends
   - Planned for trach likely tomorrow Thoracics
   - Wean vent as tolerated
   # ARF: UOP fluctuating, responds to Lasix.  Decreased UOP since
   midnight.  Overall fluid positive. Met alkalosis could be from
   contraction versus g tube losses.
   - Diamox trial in lieu of lasix for non-contracting diuresis
   - Maintain goal of 20-30cc/hr
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   - F/U afternoon Bicarb/gas
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 26
   - guaiac stool, prn
   # FEN:  Nutrition re-consulted to address tube feeds; replete
   electrolytes prn;
   ICU Care
   Nutrition:
   Fibersource HN ([**11-23**]) - [**2127-11-23**] 05:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-23 09:47:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PSV 5/5 40%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-11-23**] 06:00 AM
   Vancomycin - [**2127-11-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-23**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-23**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 63 (56 - 83) bpm
   BP: 100/47(60) {100/46(59) - 143/69(83)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,135 mL
                                                                  1,103 mL
   PO:
             TF:
                                                                  1,325 mL
                                                                    310 mL
   IVF:
                                                                    650 mL
                                                                    498 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    480 mL
   Urine:
                                                                  1,495 mL
                                                                    380 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                    623 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (395 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.2 L/min
   Physical Examination
   Gen: elderly male lying in bed
   HEENT: trach
   CV: RR
   Chest coarse BS bilat, decreased at LLL
   ABd: soft NT
   Ext: no edema
   Neuro: eyes open to vopice, squeezes hands but not following other
   commands consistently
   Labs / Radiology
   9.2 g/dL
   281 K/uL
   103 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.7 mEq/L
   29 mg/dL
   108 mEq/L
   138 mEq/L
   26.6 %
   6.6 K/uL
        [image002.jpg]
                            [**2127-11-19**]  03:14 AM
                             [**2127-11-20**]  04:00 AM
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
                             [**2127-11-22**]  05:01 PM
                             [**2127-11-23**]  04:42 AM
   WBC
   9.3
   7.3
   6.5
   6.6
   Hct
   30.2
   27.7
   26.2
   26.6
   Plt
   346
   330
   316
   281
   Cr
   1.0
   1.0
   1.0
   1.0
   1.1
   1.1
   TCO2
   31
   30
   32
   31
   Glucose
   138
   132
   142
   139
   140
   103
   Other labs: PT / PTT / INR:13.5/28.6/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   1.  Resp Failure: failed extubation due to mucus plugging and hypoxemic
   resp distress. PSV and CXR with better left sided aeration Rx
ing for
   VAP with Vanco Zosyn Cipro Day [**3-26**].
   2. Alkalosis: etiology unclear? GI losses, doubt contraction since +
   everyday and really needs diuresis. Ask Nutrition about re feeding
   issues. Use Diamox for diuresis. Cycle bicarb and ABG
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition:
   Fibersource HN ([**11-23**]) - [**2127-11-23**] 05:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2127-11-24 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NPO at midnight
   - type and cross 2 units to the OR tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2127-11-23**] 08:00 AM
   Piperacillin - [**2127-11-24**] 06:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2127-11-23**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-24**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 69 (55 - 74) bpm
   BP: 123/53(69) {97/47(60) - 150/81(94)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,282 mL
                                                                    432 mL
   PO:
             TF:
                                                                  1,097 mL
                                                                     16 mL
   IVF:
                                                                    840 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    470 mL
   Urine:
                                                                  1,200 mL
                                                                    295 mL
   NG:
                                                                    230 mL
                                                                    175 mL
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (352 - 470) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.8 L/min
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain,
   follows commands
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Clear anteriorly, unable to appreciate posterior exam
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No edema
   Neuro: Awake possibly following commands
   Labs / Radiology
   263 K/uL
   9.3 g/dL
   103 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   31 mg/dL
   108 mEq/L
   137 mEq/L
   26.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2127-11-20**]  04:00 AM
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
                             [**2127-11-22**]  05:01 PM
                             [**2127-11-23**]  04:42 AM
                             [**2127-11-24**]  03:53 AM
   WBC
   9.3
   7.3
   6.5
   6.6
   6.2
   Hct
   30.2
   27.7
   26.2
   26.6
   26.4
   Plt
   346
   330
   316
   281
   263
   Cr
   1.0
   1.0
   1.0
   1.0
   1.1
   1.1
   1.1
   TCO2
   30
   32
   31
   Glucose
   138
   132
   142
   139
   140
   103
   103
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**11-3**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA.
   # Respiratory Failure: [**12-22**] to aspiration PNA. Improve aeration on CXR.
   Currently on Vanc/Zosyn/Cipro day #5. Afebrile with leukocytosis
   resolved.
   - Cont Cipro, Vanc, Zosyn Day currently day  [**3-26**]
   - follow up mini BAL cultures
 bacterial neg, fungal pends
   - Planned for trach likely tomorrow Thoracics: NPO after midnight
   - Tolerating CPAP 5/5
   # ARF: Resolved.  UOP improved and metabolic alkalosis resolved.
   - Maintain goal of 20-30cc/hr
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   - F/U afternoon Bicarb/gas
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 26
   - guaiac stool, prn
   # FEN:  Nutrition re-consulted to address tube feeds; replete
   electrolytes prn; NPO p MN for surgery
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-25 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresis with lasix, with target 1 L neg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-11-24**] 06:16 AM
   Vancomycin - [**2127-11-24**] 08:00 AM
   Ciprofloxacin - [**2127-11-25**] 12:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-25**] 06:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2127-11-24**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2127-11-24**] 08:49 PM
   Midazolam (Versed) - [**2127-11-25**] 04:30 AM
   Fentanyl - [**2127-11-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-25**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 72 (58 - 84) bpm
   BP: 113/75(84) {105/48(66) - 144/87(95)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 59.8 kg (admission): 54.1 kg
             Total In:
                                                                  1,056 mL
                                                                    353 mL
   PO:
             TF:
                                                                     16 mL
   IVF:
                                                                    890 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    272 mL
   Urine:
                                                                  3,075 mL
                                                                    272 mL
   NG:
                                                                    175 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,194 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (384 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.8 L/min
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain,
   follows commands
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Clear anteriorly, unable to appreciate posterior exam
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No edema
   Neuro: Awake possibly following commands
   Labs / Radiology
   279 K/uL
   9.8 g/dL
   86 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.2 mEq/L
   32 mg/dL
   106 mEq/L
   139 mEq/L
   28.4 %
   5.1 K/uL
        [image002.jpg]
   CXR: Lung volumes larger. ET tube in place ~4cm above carina
   Micro: No new results
                             [**2127-11-20**]  07:46 PM
                             [**2127-11-21**]  04:14 AM
                             [**2127-11-21**]  04:55 AM
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
                             [**2127-11-22**]  05:01 PM
                             [**2127-11-23**]  04:42 AM
                             [**2127-11-24**]  03:53 AM
                             [**2127-11-25**]  04:18 AM
   WBC
   7.3
   6.5
   6.6
   6.2
   5.1
   Hct
   27.7
   26.2
   26.6
   26.4
   28.4
   Plt
   [**Telephone/Fax (3) 3808**]63
   279
   Cr
   1.0
   1.0
   1.0
   1.1
   1.1
   1.1
   1.2
   TCO2
   30
   32
   31
   Glucose
   132
   142
   139
   140
   103
   103
   86
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**11-3**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA.
   # Respiratory Failure: [**12-22**] to aspiration PNA. Improve aeration on CXR.
   Currently on Vanc/Zosyn/Cipro day #8. Afebrile with leukocytosis
   resolved.
   - Last day of abx today.
   -Scheduled for Trach today per thoracics.-NPO for procedure
   # ARF: Resolved.  UOP improved and metabolic alkalosis resolved.
   - Maintain goal of 20-30cc/hr
   - Will try some gentle diuresis to facilitate weaning.
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 26
   - guaiac stool, prn
   # FEN:  Nutrition re-consulted to address tube feeds; replete
   electrolytes prn; NPO p MN for surgery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-11-26 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Trach placed by thoracic surgery
 OR SENT - At [**2127-11-25**] 07:00 PM
 OR RECEIVED - At [**2127-11-25**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2127-11-24**] 06:16 AM
   Ciprofloxacin - [**2127-11-25**] 12:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-25**] 06:08 AM
   Vancomycin - [**2127-11-25**] 07:58 AM
   Ampicillin - [**2127-11-25**] 08:31 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2127-11-25**] 12:00 PM
   Midazolam (Versed) - [**2127-11-25**] 08:32 PM
   Fentanyl - [**2127-11-25**] 08:32 PM
   Vecuronium - [**2127-11-25**] 08:32 PM
   Heparin Sodium (Prophylaxis) - [**2127-11-25**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-26**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 79 (65 - 92) bpm
   BP: 142/56(76) {114/50(67) - 160/95(109)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 59.2 kg (admission): 54.1 kg
             Total In:
                                                                  1,200 mL
                                                                    367 mL
   PO:
             TF:
             181 mL
   IVF:
                                                                  1,120 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,632 mL
                                                                    262 mL
   Urine:
                                                                  2,482 mL
                                                                    252 mL
   NG:
                                                                    150 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,432 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 311 (311 - 589) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: ///26/
   Ve: 8.4 L/min
   Physical Examination
   Gen: Intubated, awake, opens eyes to voice, shakes head no to pain,
   follows commands
   HEENT: Pupils pinpoint.
   Neck: Small ulcer anterior neck midline, suture line
   CV: irreg.  No m/r/g
   Resp: Clear anteriorly, unable to appreciate posterior exam
   Abd: Soft. NT/ND. +BS. No HSM. G, J tube in place.
   Ext: No edema
   Neuro: Awake possibly following commands
   Labs / Radiology
   303 K/uL
   10.0 g/dL
   99 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.5 mEq/L
   31 mg/dL
   106 mEq/L
   140 mEq/L
   28.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2127-11-21**]  04:55 AM
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
                             [**2127-11-22**]  05:01 PM
                             [**2127-11-23**]  04:42 AM
                             [**2127-11-24**]  03:53 AM
                             [**2127-11-25**]  04:18 AM
                             [**2127-11-25**]  04:52 PM
                             [**2127-11-26**]  02:44 AM
   WBC
   7.3
   6.5
   6.6
   6.2
   5.1
   6.2
   Hct
   27.7
   26.2
   26.6
   26.4
   28.4
   28.1
   Plt
   [**Telephone/Fax (3) 3808**]63
   279
   303
   Cr
   1.0
   1.0
   1.0
   1.1
   1.1
   1.1
   1.2
   1.2
   1.1
   TCO2
   31
   Glucose
   132
   142
   139
   140
   103
   103
   86
   92
   99
   Other labs: PT / PTT / INR:14.7/31.9/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM with HTN, AF, esophageal stricture and hx of aspiration presented
   to OSH ([**11-3**]) with C5 fracture after a fall now s/p G, J tube
   placement here with aspiration PNA.
   # Respiratory Failure: [**12-22**] to aspiration PNA. Improve aeration on CXR.
   Completed course of Vanc/Zosyn/Cipro day #8. Afebrile with leukocytosis
   resolved.
   -Trach yesterday, currently on collar and stable on 3 L.
   # ARF: Resolved.  UOP improved and metabolic alkalosis resolved.
   - Maintain goal of -2L daily
   - Lasix 40mg IV today, to be reassessed daily
   # C5 fracture:  C5-C6 fractures s/p neurosurgery repair.  Aspen collar
   to stay on if patient will be upright and moving, otherwise ok to
   remove.
   - Ortho spine following
   - Aspen collar on with pt awake and moving
   # H/o esophageal strictures/hernia:  No current changes.  G and J tubes
   placed for feeding
   -  Keeping G tube to gravity for now, monitor output as potential
   source for alkalosis
   -  J tube feeds with goal at 40cc
   # Atrial fib/flutter: Hemodynamically stable, rate controlled without
   meds.  Normotensive.
   - no active issues
   # Hypertension: currently normotensive. Will hold off restarting any
   nodal agents at this time and will continue to assess. Was previously
   on Lisinopril 2.5 [**Hospital1 **], metoprolol 25 daily at home, can restart as BP
   tolerates.
   -monitor SBP
   .
   # Anemia: Hct stable at 26
   - guaiac stool, prn
   # FEN:  On tube feeds; replete electrolytes prn; PICC line for access
   .
   # Dispo:continue to monitor for 12 hours, Rehab vs. floor today or
   tomorrow
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Fibersource HN ([**11-23**]) - [**2127-11-26**] 12:15 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   20 Gauge - [**2127-11-25**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of resident
s history and exam. Agree with Dr.
   [**Last Name (STitle) 3850**]
s assessment and plan.  He is continuing to diurese
   effectively.  Tolerated trache w/o problems and we now have him doing
   well on trache collar.  Will need substantial rehab.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2127-11-26**] 14:29 ------

2127-11-27 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2127-11-26**] 08:06 AM
   - Plan to go to [**Hospital 858**] Rehab today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-11-25**] 12:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2127-11-25**] 06:08 AM
   Vancomycin - [**2127-11-25**] 07:58 AM
   Ampicillin - [**2127-11-25**] 08:31 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-11-26**] 08:02 AM
   Furosemide (Lasix) - [**2127-11-26**] 03:20 PM
   Heparin Sodium (Prophylaxis) - [**2127-11-26**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-11-27**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 62 (57 - 91) bpm
   BP: 120/66(79) {112/49(65) - 147/83(100)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 59.2 kg (admission): 54.1 kg
             Total In:
                                                                  1,427 mL
                                                                    397 mL
   PO:
             TF:
                                                                    957 mL
                                                                    325 mL
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,067 mL
                                                                    470 mL
   Urine:
                                                                  2,057 mL
                                                                    470 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -640 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 2,501 (2,501 - 2,501) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   245 K/uL
   9.1 g/dL
   130 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.6 mEq/L
   27 mg/dL
   108 mEq/L
   143 mEq/L
   26.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2127-11-21**]  03:25 PM
                             [**2127-11-21**]  05:21 PM
                             [**2127-11-22**]  03:19 AM
                             [**2127-11-22**]  05:01 PM
                             [**2127-11-23**]  04:42 AM
                             [**2127-11-24**]  03:53 AM
                             [**2127-11-25**]  04:18 AM
                             [**2127-11-25**]  04:52 PM
                             [**2127-11-26**]  02:44 AM
                             [**2127-11-27**]  04:01 AM
   WBC
   6.5
   6.6
   6.2
   5.1
   6.2
   5.0
   Hct
   26.2
   26.6
   26.4
   28.4
   28.1
   26.3
   Plt
   [**Telephone/Fax (3) 3867**]79
   303
   245
   Cr
   1.0
   1.0
   1.1
   1.1
   1.1
   1.2
   1.2
   1.1
   0.9
   TCO2
   31
   Glucose
   142
   139
   140
   103
   103
   86
   92
   99
   130
   Other labs: PT / PTT / INR:14.7/31.9/1.3, CK / CKMB /
   Troponin-T:161/3/0.02, ALT / AST:32/37, Alk Phos / T Bili:131/2.0,
   Differential-Neuts:90.5 %, Lymph:5.3 %, Mono:3.2 %, Eos:0.7 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:217 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria
 CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   Fibersource HN ([**11-23**]) - [**2127-11-27**] 12:57 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2127-11-11**] 09:35 AM
   20 Gauge - [**2127-11-25**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: